US03957808
Preparation of 4-nitro-3-methoxyisothiazole
To a solution of 10 ml. of concentrated sulfuric acid and 2 g. (0.022 mole) of 70% nitric acid was added over several minutes 2.3 g. (0.02 mole) of 3-methoxyisothiazole. The temperature rose to 40° C. and was controlled at that point by cooling. After stirring for 5 hours the reaction solution was poured into 30 ml. of ice-water to precipitate 0.5 g. (16%) of 4-nitro-3-methoxyisothiazole as a white solid, m.p. 118°-122° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.022 mole | [N+](=O)(O)[O-] | HNO3
reactant | 3-methoxyisothiazole | 0.02 mole | COC1=NSC=C1 | C4H5NOS
product | 4-nitro-3-methoxyisothiazole | [N+](=O)([O-])C=1C(=NSC1)OC | C4H4N2O3S
